US07265120B2
6-(1-Isopropyl-6-oxo-1,6-dihydro-3-pyridazinyl)-3-[(4-methoxybenzyl)amino]-5-phenyl-2-pyrazinecarbonitrile (14.61 g) was added to a suspension of NaH (60% in oil suspension) (1.36 g) in DMA (36.5 ml) and the mixture was stirred at 20-25° C. for an hour. After addition of 1-(chloromethyl)-4-methoxybenzene (4.82 ml), the mixture was stirred at the same temperature for 20 hours. To the reaction mixture was added water (183 ml) and a precipitate was collected by filtration. The precipitate was purified by column chromatography on silica gel (EtOAc only) to give a solid. The solid was crystallized from a mixture of n-hexane and CHCl3 to give 3-[bis(4-methoxybenzyl)amino]-6-(1-isopropyl-6-oxo-1,6-dihydro-3-pyridazinyl)-5-phenyl-2-pyrazinecarbonitrile (16.58 g).

reactant | 6-(1-Isopropyl-6-oxo-1,6-dihydro-3-pyridazinyl)-3-[(4-methoxybenzyl)amino]-5-phenyl-2-pyrazinecarbonitrile | 14.61 g | C(C)(C)N1N=C(C=CC1=O)C1=C(N=C(C(=N1)C#N)NCC1=CC=C(C=C1)OC)C1=CC=CC=C1 | C26H24N6O2
reactant | NaH | 1.36 g | [H-].[Na+]
reactant | 1-(chloromethyl)-4-methoxybenzene | 4.82 ml | ClCC1=CC=C(C=C1)OC | C8H9ClO
reactant | water | 183 ml | O | H2O
solvent | DMA | 36.5 ml | CC(=O)N(C)C | C4H9NO
product | 3-[bis(4-methoxybenzyl)amino]-6-(1-isopropyl-6-oxo-1,6-dihydro-3-pyridazinyl)-5-phenyl-2-pyrazinecarbonitrile | 16.58 g | COC1=CC=C(CN(C=2C(=NC(=C(N2)C2=CC=CC=C2)C2=NN(C(C=C2)=O)C(C)C)C#N)CC2=CC=C(C=C2)OC)C=C1 | C34H32N6O3
